US05587392
Synthesis of 2-methoxymethoxy-5-(trifluoromethyl)benzaldehyde
To the solution of 4-(trifluoromethyl)phenyl methoxymethyl ether (5 g) in anhydrous ether (50 ml) was gradually added dropwise 1.6M n-BuLi (16.7 ml) at room temperature. After stirring at room temperature for 2 hours, the solution of DMF (4.13 ml) in anhydrous ether (20 ml) was added dropwise over 30 minutes, and the solution was stirred for 1 hour. To the reaction solution was added water, and the ether layer was separated. The ether layer is was washed with water and saturated sodium chloride solution, and dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The resulting residue was purified by chromatography on a silica gel column (methylene chloride:hexane=1:1), to give the title compound (4.49 g; 79%).

reactant | 4-(trifluoromethyl)phenyl methoxymethyl ether | 5 g | COCOC1=CC=C(C=C1)C(F)(F)F | C9H9F3O2
reactant | n-BuLi | 1.6M, 16.7 ml | [Li]CCCC
reactant | DMF | 4.13 ml | CN(C)C=O | C3H7NO
reactant | water | O | H2O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 2-methoxymethoxy-5-(trifluoromethyl)benzaldehyde | 4.49 g, 79% | COCOC1=C(C=O)C=C(C=C1)C(F)(F)F | C10H9F3O3
